US07825249B2
Tris(3-bromobenzyl)methane
A suspension of 150.5 g (250 mmol) of tris(3-bromobenzyl)bromomethane and 163.5 g (2.5 mol) of zinc dust in 2000 ml of glacial acetic acid was stirred at 50° C. for 6 h. After cooling, the reaction mixture was filtered through silica gel (care: the filter residue is pyrophoric!). The filtrate was freed from glacial acetic acid under reduced pressure, and the residue was taken up in 1000 ml of dichloromethane. After the dichloromethane phase had been washed with water (2×500 ml), dried over sodium sulfate/sodium hydrogencarbonate and evaporated, the residue was freed from final traces of water by taking up in 500 ml of toluene and removal of the toluene by azeotropic distillation. The yield, with a purity of about 97%, was 122.9 g (235 mmol), corresponding to 94.0% of theory.

reactant | tris(3-bromobenzyl)bromomethane | 250 mmol, 150.5 g | BrC=1C=C(CC(Br)(CC2=CC(=CC=C2)Br)CC2=CC(=CC=C2)Br)C=CC1 | C22H18Br4
solvent | acetic acid | 2000 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.5 mol, 163.5 g | [Zn] | Zn
product | Tris(3-bromobenzyl)methane | BrC=1C=C(CC(CC2=CC(=CC=C2)Br)CC2=CC(=CC=C2)Br)C=CC1 | C22H19Br3
